US06447749B1
a) 1,2,3,4,6-Penta-O-acetyl-α-D-glucopyranose
Analogously, as described in the synthesis of title compound Aa), the reaction of 100 g (555.0 mmol) of α-D-glucopyranose with a mixture of 1000 ml of absolute pyridine and 1000 ml of acetic acid anhydride after working-up and recrystallization from 95% aqueous ethanol yields 190.6 g (88.0%) of the above-mentioned title compound as a colorless and crystalline compound. By 1H-NMR-spectroscopic study of the title compound that is thus obtained, it was possible to determine the α to β-ratio of two possible anomers with ≧98:2. Accordingly, the title compound is the exclusively α-configured anomer.

reactant | α-D-glucopyranose | 555.0 mmol, 100 g | O[C@@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C6H12O6
reactant | acetic acid anhydride | 1000 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1000 ml | N1=CC=CC=C1 | C5H5N
product | 1,2,3,4,6-Penta-O-acetyl-α-D-glucopyranose | 190.6 g, 88.0% | C(C)(=O)O[C@@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C16H22O11
